US09233946B2
Chloroacetone (11.6 g, 125 mmol) and NaHCO3 (12.6 g, 150 mmol) were added to a solution of 4-methylthiophenol (10 g, 80.5 mmol) in dry DMF (50 mL). The mixture was stirred at 50-60° C. for 1 h. The cooled reaction mixture was poured into water (200 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were dried with K2CO3, evaporated to dryness and the residue was distilled (b.p. 145-148° C./12 mm) to give 11.7 g of 1-(p-tolyl sulfanyl)propan-2-one (81%).

reactant | Chloroacetone | 125 mmol, 11.6 g | ClCC(C)=O | C3H5ClO
reactant | NaHCO3 | 150 mmol, 12.6 g | C(=O)(O)[O-].[Na+]
reactant | 4-methylthiophenol | 80.5 mmol, 10 g | CC1=CC=C(C=C1)S | C7H8S
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(p-tolyl sulfanyl)propan-2-one | 11.7 g, 81% | C1(=CC=C(C=C1)SCC(C)=O)C | C10H12OS
